US07592358B2
50.5b. 2-(4-bromo-2-methylphenyl)ethanol
6.31 mL (6.31 mmol, 1M solution in THF) of lithium aluminum hydride was added at −5° C. to a solution of 4.00 g (6.31 mmol) of tert-butyl (4-bromo-2-methylphenyl)acetate in 50 mL of THF. The reaction mixture was heated to RT and stirred at this temperature until the reaction was complete. 0.3 mL of water, 0.3 mL of 15% aqueous sodium hydroxide solution, and 0.9 mL of water were added successively. After filtration, the organic phase was dried over magnesium sulfate and the solvent was eliminated in vacuo. Further purification was carried out by column chromatography on silica gel (PE/EtOAc 8:2). Yield: 1.02 g (75% of theoretical); C9H11BrO (M=215.087); calc.: molpeak (M)+:214/216 (Br); found: molpeak (M)+:214/216 (Br); Rf value: 0.59 (silica gel, PE/EtOAc 8:2).

reactant | lithium aluminum hydride | 6.31 mmol, 1M, 6.31 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tert-butyl (4-bromo-2-methylphenyl)acetate | 6.31 mmol, 4.00 g | BrC1=CC(=C(C=C1)CC(=O)OC(C)(C)C)C | C13H17BrO2
reactant | water | 0.3 mL | O | H2O
reactant | sodium hydroxide | 0.3 mL | [OH-].[Na+]
reactant | water | 0.9 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-bromo-2-methylphenyl)ethanol | BrC1=CC(=C(C=C1)CCO)C | C9H11BrO
